US06657060B2
In analogy to example 12c), by heating (E)-2-[2-(4-methoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (0.3 g, 1.24 mmol) in POCl3 (2.27 ml, 24.76 mmol) at 130° C. for 4.5 h there was obtained (E)-4-chloro-2-[2-(4-methoxy-phenyl)-vinyl]-6-methyl-pyrimidine (0.306 g, 94%) as a light yellow solid. EI mass spectrum, m/e: 260.1 (M calculated for C14H13ClN2O: 260).

reactant | (E)-2-[2-(4-methoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 1.24 mmol, 0.3 g | COC1=CC=C(C=C1)/C=C/C1=NC(=CC(=N1)O)C | C14H14N2O2
reactant | POCl3 | 24.76 mmol, 2.27 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-2-[2-(4-methoxy-phenyl)-vinyl]-6-methyl-pyrimidine | 0.306 g, 94% | ClC1=NC(=NC(=C1)C)\C=C\C1=CC=C(C=C1)OC | C14H13ClN2O
